US06440995B1
(RS)-3-[2-(4-Methoxy-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride
The title compound, m.p. 216-218° C. and MS: m/e=324 (M+), was prepared from 4-chloro-2-(4-methoxy-phenyl)-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-(4-methoxy-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)OC | C16H12ClNO
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-[2-(4-Methoxy-phenyl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride | Cl.COC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O | InChI=1S/C19H20N2O3.ClH/c1-24-15-8-6-13(7-9-15)18-10-19(20-11-14(23)12-22)16-4-2-3-5-17(16)21-18;/h2-10,14,22-23H,11-12H2,1H3,(H,20,21);1H
